US04630896
A suspension of 10.6 g of 2-(trans-4-pentylcyclohexyl)ethyl-triphenylphosphonium bromide in 100 ml of dry t-butyl methyl ether was treated portionwise under an inert gas atmosphere at 5°-10° C. with 2.2 g of potassium t-butylate and the mixture was stirred for a further 10 minutes. Subsequently, a solution of 3.5 g of 4-(p-cyanophenyl)cyclohexanone in 50 ml of tetrahydrofuran was added dropwise over a period of 30 minutes to the orange suspension. The mixture was stirred at room temperature overnight and then treated with 50 ml of water. The aqueous phase was separated and extracted with diethyl ether. The combined organic phase was washed neutral with water, dried over sodium sulphate and concentrated. The residue was chromatographed on silica gel with hexane/ethyl acetate (vol. 95:5), thereby obtaining 3.8 g of p-[4-[2-(trans-4-pentylcyclohexyl)ethylidene]cyclohexyl]benzonitrile.

reactant | 2-(trans-4-pentylcyclohexyl)ethyl-triphenylphosphonium bromide | 10.6 g | [Br-].C(CCCC)[C@@H]1CC[C@H](CC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-(p-cyanophenyl)cyclohexanone | 3.5 g | C(#N)C1=CC=C(C=C1)C1CCC(CC1)=O | C13H13NO
reactant | water | 50 ml | O | H2O
solvent | t-butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | p-[4-[2-(trans-4-pentylcyclohexyl)ethylidene]cyclohexyl]benzonitrile | 3.8 g | C(CCCC)[C@@H]1CC[C@H](CC1)CC=C1CCC(CC1)C1=CC=C(C#N)C=C1 | C26H37N
